US09102662B2
Preparation of 4-[(azetidin-3-ylmethyl)amino]-N-[5-(3,5-difluorobenzyl)-1H-indazol-3-yl]-2-(tetrahydro-2H-pyran-4-ylamino)benzamide [(IA), R1=R2=R3=H, R=3,5-difluorophenyl, Ar=4-[(azetidin-3-ylmethyl)amino]-2-[tetrahydro-2H-pyran-4-ylamino]phenyl] cpd. 109
tert-butyl 3-({[4-{[5-(3,5-difluorobenzyl)-1H-indazol-3-yl]carbamoyl}-3-(tetrahydro-2H-pyran-4-ylamino)phenyl]amino}methyl)azetidine-1-carboxylate (738 mg, 1.1 mmol) was dissolved in DCM (12 mL) and TFA (3 mL) was added. The resulting reaction solution was stirred for 3 hours at room temperature. The mixture was diluted with DCM and extracted with 10% aqueous NH3. Aqueous phase was extracted several time with DCM. Collected organic phases were washed with brine, dried over sodium sulfate and evaporated to dryness. Column chromatography purification on silica gel using dichloromethane/methanol/NH3 5N in MeOH 70:30:1 as the eluant, afforded 150 mg of the title compound.

reactant | tert-butyl 3-({[4-{[5-(3,5-difluorobenzyl)-1H-indazol-3-yl]carbamoyl}-3-(tetrahydro-2H-pyran-4-ylamino)phenyl]amino}methyl)azetidine-1-carboxylate | 1.1 mmol, 738 mg | FC=1C=C(CC=2C=C3C(=NNC3=CC2)NC(=O)C2=C(C=C(C=C2)NCC2CN(C2)C(=O)OC(C)(C)C)NC2CCOCC2)C=C(C1)F | C35H40F2N6O4
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 12 mL | C(Cl)Cl | CH2Cl2
product | 4-[(azetidin-3-ylmethyl)amino]-N-[5-(3,5-difluorobenzyl)-1H-indazol-3-yl]-2-(tetrahydro-2H-pyran-4-ylamino)benzamide | 150 mg | N1CC(C1)CNC1=CC(=C(C(=O)NC2=NNC3=CC=C(C=C23)CC2=CC(=CC(=C2)F)F)C=C1)NC1CCOCC1 | C30H32F2N6O2
